US07186727B2
Preparation of tert-butyl 6-chloronicotinate
A mixture of 6-chloronicotinic acid (12.0 g, 76 mmol) and thionyl chloride (65 mL) was heated at reflux for 3.0 h. The excess thionyl chloride was removed under reduced pressure, and the residual liquid was diluted with dichloromethane (20 mL) and then added to a solution of tert-butyl alcohol (71 mL, 760 mmol) in dichloromethane (40 mL). To the mixture was added triethylamine (31.7 mL, 760 mmol) and N,N-dimethylpyridine (0.5 g, 4.0 mmol), and the reaction mixture was stirred overnight (14 h) at reflux under nitrogen. The solution was diluted with dichloromethane (200 mL), washed with a saturated aqueous solution of sodium bicarbonate (3×100 mL), washed with water (3×100 mL), and dried over anhydrous sodium sulfate. Concentration under reduced pressure provided Preparation 3 (11.4 g, 70.3%) as a yellow solid. The product had an analytical HPLC retention time=3.18 min. (Column: YMC ODS 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.2% H3PO4; Solvent B=90% MeOH, 10% H2O, 0.2% H3PO4) and a LCMS M+1=214. The purity of the product was about 96%. The major impurity was the iso-propyl 6-chloronicotinate with an analytical HPLC retention time=2.88 min. and a LC/MS M+1=200.

reactant | 6-chloronicotinic acid | 76 mmol, 12.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | thionyl chloride | 65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl alcohol | 760 mmol, 71 mL | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 760 mmol, 31.7 mL | C(C)N(CC)CC | C6H15N
reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | iso-propyl 6-chloronicotinate | ClC1=NC=C(C(=O)OC(C)C)C=C1 | C9H10ClNO2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | tert-butyl 6-chloronicotinate | ClC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C10H12ClNO2
